US07582769B2
1-(1-Acetyl-piperidin-4-yl)-1-cyclopentyl-3-thiazol-2-yl-urea
Prepared according to general procedure (I). To a mixture of N-acetyl-piperidone (1.4 g) and cyclopentylamine (0.9 g) and molecular sieves (5 g) in THF (8 mL) and methanol (8 mL) was added sodium cyanoborohydride (2.1 g) and the reaction was stirred overnight at room temperature. Insoluble material was removed by filtration and after removal of solvent in vacuo the crude secondary amine (0.57 g) was isolated. The urea coupling was performed in an similar manner to the synthesis of 1,1-dicyclopentyl-3-thiazol-2-yl-urea using carbonyl imidazole and 2-aminothiazole as starting material.

reactant | N-acetyl-piperidone | 1.4 g | C(C)(=O)N1C(CCCC1)=O | C7H11NO2
reactant | cyclopentylamine | 0.9 g | C1(CCCC1)N | C5H11N
reactant | sodium cyanoborohydride | 2.1 g | C(#N)[BH3-].[Na+]
reactant | urea | NC(=O)N | CH4N2O
reactant | 1,1-dicyclopentyl-3-thiazol-2-yl-urea | C1(CCCC1)N(C(=O)NC=1SC=CN1)C1CCCC1 | C14H21N3OS
reactant | carbonyl imidazole | C(=O)=C1N=CC=N1 | C4H2N2O
reactant | 2-aminothiazole | NC=1SC=CN1 | C3H4N2S
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | methanol | 8 mL | CO | CH4O
product | 1-(1-Acetyl-piperidin-4-yl)-1-cyclopentyl-3-thiazol-2-yl-urea | C(C)(=O)N1CCC(CC1)N(C(=O)NC=1SC=CN1)C1CCCC1 | C16H24N4O2S
